US05591853
Production of 2-chloropyrimidine-4-carboxyamide
Ammonia gas was introduced in 20 ml of tetrahydrofuran at -6° C. for 35 minutes. Then it was heated to 10° C. and 1.5 g (8.47 mmol) of 2-chloropyrimidine-4-carboxylic acid chloride was added. The reaction solution was stirred for 45 minutes at room temperature. Then it was concentrated by evaporation on a rotary evaporator, the residue was poured on 90 ml of saturated NaHCO3 solution, and the aqueous phase was extracted three times with 50 ml of ethyl acetate each. The combined organic phase was washed with saturated NaCl solution, dried on Na2SO4 and concentrated by evaporation on a ratory evaporator. After drying on a high vacuum, 1.07 g of product was obtained as a white solid, corresponding to a yield of 80 percent relative to the 2-chloropyrimidine-4-carboxylic acid chloride used. The melting point of the product was 147.2° to 151.4° C. Other data of the product was:

reactant | Ammonia | N | H3N
reactant | 2-chloropyrimidine-4-carboxylic acid chloride | 8.47 mmol, 1.5 g | ClC1=NC=CC(=N1)C(=O)Cl | C5H2Cl2N2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-chloropyrimidine-4-carboxyamide | 1.07 g, yield of 80 percent | ClC1=NC=CC(=N1)CC(=O)N | C6H6ClN3O
